US07304081B2
Step 2. 1-(4-formylphenyl)cyclopropanecarbonitrile
Ozone was bubbled through a solution of 1-(4-vinylphenyl)cyclopropanecarbonitrile (1.8 g, 0.011 mol) in methylene chloride (40 mL, 0.6 mol) at −78° C. until a blue color appeared and then nitrogen was bubbled throught the solution for 10 minutes. Methyl sulfide was added and the mixture was stirred overnight. The mixture was washed with water and brine successively, dried, and concentrated to give the desired product.

reactant | Ozone | O=[O+][O-] | O3
reactant | 1-(4-vinylphenyl)cyclopropanecarbonitrile | 0.011 mol, 1.8 g | C(=C)C1=CC=C(C=C1)C1(CC1)C#N | C12H11N
reactant | methylene chloride | 0.6 mol, 40 mL | C(Cl)Cl | CH2Cl2
product | 1-(4-formylphenyl)cyclopropanecarbonitrile | C(=O)C1=CC=C(C=C1)C1(CC1)C#N | C11H9NO
